US08222219B2
5-Bromo-2-chlorophenyl 6-bromo-3-pyridyl ketone (3.2 g) from Reference Example 135-(2) was dissolved in tetrahydrofuran (80 ml), and added thereto were triethylaluminium (1.0 M hexane solution, 9.9 ml), tetrakis(triphenylphosphine)palladium(0) (570 mg) and cerium(III) chloride (7.3 g), and the mixture was stirred at 30° C. for 1.5 hours. The reaction mixture was diluted with methanol, and the reaction solution was basified with a saturated aqueous sodium hydrogen carbonate solution. The insoluble materials were filtered off and, the filtrate was extracted with ethyl acetate and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=99:1-85:15) to give 5-bromo-2-chlorophenyl 6-ethyl-3-pyridyl ketone (1.98 g) as a colorless solid. APCI-Mass m/Z 324/326 (M+H). (2) The above 5-bromo-2-chlorophenyl 6-ethyl-3-pyridyl ketone was treated in a manner similar to Reference Example 14-(1) to give the desired 5-bromo-2-chloro-1-(6-ethyl-3-pyridylmethyl)benzene as a colorless oil. APCI-Mass m/Z 310/312 (M+H).

reactant | 5-Bromo-2-chlorophenyl 6-bromo-3-pyridyl ketone | 3.2 g | BrC1=CC=C(C=N1)C(=O)C1=C(C=CC(=C1)Br)Cl | C12H6Br2ClNO
reactant | triethylaluminium | 1.0 M, 9.9 ml | C(C)[Al](CC)CC
reactant | cerium(III) chloride | 7.3 g | [Cl-].[Ce+3].[Cl-].[Cl-]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 570 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-bromo-2-chlorophenyl 6-ethyl-3-pyridyl ketone | 1.98 g | C(C)C1=CC=C(C=N1)C(=O)C1=C(C=CC(=C1)Br)Cl | C14H11BrClNO
